US09359338B2
Step 2: Synthesis of 1-(3-nitro-5-(trifluoromethyl)phenyl)ethyl 4-methylbenzenesulfonate
Add p-toluenesulfonyl chloride (1.7 g, 8.9 mmol) dropwise at 0° C. to the mixture of 1-(3-nitro-5-(trifluoromethyl)phenyl)ethanol (520 mg, 2.23 mmol) and triethylamine (1.4 g, 13.4 mmol) in dichloromethane (20 mL), stir the resulting mixture for 12 hrs at ambient temperature. Concentrate the mixture under reduced pressure to get a residue, purify the residue by chromatography (silica gel, EtOAc:PE=1:10) to afford the title compound (700 mg, 80.6%).

reactant | p-toluenesulfonyl chloride | 8.9 mmol, 1.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-(3-nitro-5-(trifluoromethyl)phenyl)ethanol | 2.23 mmol, 520 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C(C)O | C9H8F3NO3
reactant | triethylamine | 13.4 mmol, 1.4 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(3-nitro-5-(trifluoromethyl)phenyl)ethyl 4-methylbenzenesulfonate | 700 mg, 80.6% | CC1=CC=C(C=C1)S(=O)(=O)OC(C)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C16H14F3NO5S
